US07109219B2
6-Amino-4-(1H-4-indolylamino)pyrimidine
A 7N methanol solution of ammonia (50 ml) and tetrahydrofuran (20 ml) were added to 6-chloro-4-(1H-4-indolylamino)pyrimidine (599 mg, 2.5 mmol) and the reaction mixture was heated in a sealed tube at 130° C. for 137 hours. The solvent was distilled off under reduced pressure; the residue was purified by silica gel column chromatography (eluent; ethyl acetate:tetrahydrofuran=1:1); diethyl ether was added to the residue to crystallize; the crystals were filtered off, washed with diethyl ether, and dried under aeration to yield the title compound (454 mg, 2.0 mmol, 82%) as pale brown crystals.

reactant | methanol | 7N | CO | CH4O
reactant | ammonia | 50 ml | N | H3N
reactant | 6-chloro-4-(1H-4-indolylamino)pyrimidine | 2.5 mmol, 599 mg | ClC1=CC(=NC=N1)NC1=C2C=CNC2=CC=C1 | C12H9ClN4
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6-Amino-4-(1H-4-indolylamino)pyrimidine | 2.0 mmol, 454 mg, 82% | NC1=CC(=NC=N1)NC1=C2C=CNC2=CC=C1 | C12H11N5
